* PTAT_CLASSIC -- AnalogGym sensing front end on TSMC6 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.75 V.
.subckt PTAT_CLASSIC VDDA vsense GNDA
Nm0 vsense net1 net12 net12 nsvt_l180_f4 m=16
Nm1 net1 net1 gnda gnda nsvt_l180_f4 m=16
Nm3 vsense vsense VDDA VDDA psvt_l90_f20 m=16
Nm4 net1 vsense VDDA VDDA psvt_l90_f20 m=64
r0 net12 gnda 1000
.ends PTAT_CLASSIC
