* PTAT_SENSOR -- AnalogGym sensing front end on TSMC12 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.8 V.
.subckt PTAT_SENSOR VDDA vsense GNDA
Nm0 vdda vsense vsense gnda nulvt_l90_f20 m=30
Nm1 vsense vsense gnda gnda nlvt_l90_f6 m=1
.ends PTAT_SENSOR
