* PTAT_SENSOR -- AnalogGym sensing front end on TSMC6 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.75 V.
.subckt PTAT_SENSOR VDDA vsense GNDA
Nm0 vdda vsense vsense gnda nulvt_l90_f10 m=7
Nm1 vsense vsense gnda gnda nsvt_l240_f6 m=4
.ends PTAT_SENSOR
