* front_end_11_6T_schematic -- AnalogGym sensing front end on TSMC6 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.75 V.
.subckt front_end_11_6T_schematic GND VDD VOUT
NM5 VOUT net2 GND GND nulvt_l60_f10 m=1
NM4 VDD net2 VOUT GND nulvt_l60_f10 m=4
NM3 GND GND GND GND nulvt_l60_f10 m=16
NM2 net2 net2 GND GND nulvt_l60_f10 m=64
NM1 VDD net2 GND GND nulvt_l60_f10 m=256
NM0 VDD VDD net2 GND nulvt_l60_f10 m=1024
.ends front_end_11_6T_schematic
