* front_end_42_2_2015_REF_schematic -- AnalogGym sensing front end on TSMC12 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.8 V.
.subckt front_end_42_2_2015_REF_schematic GND VDD VOUT
NM4 VDD net12 net12 GND nulvt_l90_f6 m=2
NM3 net12 net12 GND GND nulvt_l90_f6 m=8
NM1 VOUT VOUT net12 GND nulvt_l90_f6 m=32
NM0 VDD VOUT VOUT GND nulvt_l90_f6 m=128
.ends front_end_42_2_2015_REF_schematic
