* front_end_42_2_2015_REF_schematic -- AnalogGym sensing front end on TSMC6 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.75 V.
.subckt front_end_42_2_2015_REF_schematic GND VDD VOUT
NM4 VDD net12 net12 GND nulvt_l180_f10 m=2
NM3 net12 net12 GND GND nulvt_l180_f3 m=8
NM1 VOUT VOUT net12 GND nulvt_l120_f2 m=288
NM0 VDD VOUT VOUT GND nulvt_l240_f10 m=3584
.ends front_end_42_2_2015_REF_schematic
