* ptat_1 -- AnalogGym sensing front end on TSMC5 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.65 V.
.subckt ptat_1 GND VDD VOUT
NM5 VOUT VOUT GND GND nulvt_l36_f2 m=1
NM4 VDD VOUT VOUT GND nulvt_l90_f12 m=7
NM3 VOUT VOUT GND GND nulvt_l36_f2 m=1
NM2 VDD VOUT VOUT GND nulvt_l90_f12 m=7
NM1 VOUT VOUT GND GND nulvt_l36_f2 m=1
NM0 VDD VOUT VOUT GND nulvt_l90_f12 m=7
.ends ptat_1
