* ptat_3 -- AnalogGym sensing front end on TSMC6 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.75 V.
.subckt ptat_3 GND VDD VOUT
NM3 VOUT VOUT GND GND nsvt_l180_f20 m=1
NM2 VDD VOUT VOUT GND nlvt_l120_f20 m=71
NM1 VOUT VOUT GND GND nsvt_l36_f2 m=1
NM0 VDD VOUT VOUT GND nlvt_l240_f10 m=400
.ends ptat_3
