* dual_output_subthreshold_vref -- AnalogGym voltage reference on TSMC16 BSIM-CMG
* Topology is the shipped one; geometry is re-designed for 0.8 V.
Nm1 net14 net14 vdda vdda plvt_l240_f2 m=2
Nm2 net15 net14 vdda vdda plvt_l240_f2 m=2
Nm3 vref2 net14 vdda vdda plvt_l120_f2 m=1
Nm4 net15 net15 vref1 0 nulvt_l36_f4 m=2
Nm5 net14 vref1 0 0 nlvt_l90_f2 m=2
Nm7 vref2 vref2 0 0 nhvt_l240_f4 m=2
Nm6 vref1 net15 0 0 nsvt_l240_f10 m=1

* Third low-load output derived from the qualified vref2 core.
R3top vref2 vref3 1e18
R3bot vref3 0 1e18
